US07964608B2
1-Cyclopentyl-3-isopropyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (19 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and isopropyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 354 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.45 (s, 1H), 7.78 (d, 1H), 7.57 (t, 1H), 7.24 (d, 1H), 5.21 (p, 1H), 4.93 (m, 1H), 4.14 (s, 3H), 3.83 (m, 2H), 2.38 (m, 2H), 2.08 (m, 4H), and 1.15 (d, 6H) ppm.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.10 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | isopropyl isocyanate | 0.4 mmol | C(C)(C)N=C=O | C4H7NO
product | 1-Cyclopentyl-3-isopropyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 19 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C(C)C)=O | C20H23N3O3
